### PR TITLE
[Merged by Bors] - chore(AlgebraicGeometry/EllipticCurve/*): split `VariableChange` into a new file

### PR DESCRIPTION
**Pull request by acmepjz**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

This was suggested in here https://github.com/leanprover-community/mathlib4/pull/16864#pullrequestreview-2309362363

Discussion: https://leanprover.zulipchat.com/#narrow/stream/144837-PR-reviews/topic/.2317199.20split.20WeierstrassCurve.2EVariableChange.20to.20a.20new.20file/near/473290606

### CODE REVIEW

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine.lean [hunk 1]
```diff
@@ -192,7 +193,7 @@ lemma equation_zero : W.Equation 0 0 ↔ W.a₆ = 0 := by
   rw [Equation, evalEval_polynomial_zero, neg_eq_zero]
 
 lemma equation_iff_variableChange (x y : R) :
-    W.Equation x y ↔ (W.variableChange ⟨1, x, 0, y⟩).toAffine.Equation 0 0 := by
+    W.Equation x y ↔ ((⟨1, x, 0, y⟩ : VariableChange R) • W).toAffine.Equation 0 0 := by
```
Comment (acmepjz) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Affine.lean:196]: This change causes extra writings here, since it can't recognize `⟨1, x, 0, y⟩ • W`. What about rename the old `variableChange` (which contains the actual definition) to `variableChange'` and make it private, and `abbrev variableChange : WeierstrassCurve R := C • W`?

**Review by Ruben-VandeVelde — CHANGES_REQUESTED** [review]
I'm gonna ask that you do not combine moving code around with changes to that code; it's impossible to review them this way. Please create a new PR with only code motion.

**Comment by acmepjz** [comment]
Done. Now this PR only contains code moves. The refactor will be in a new PR.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
